US06977262B2
5-Cyano-6-cyclopropyl-4,7-dihydro-4-(2-nitrophenyl)-2H-pyrazolo[3,4-b]pyridine
The title compound was prepared from methyl cyclopropanecarboxylate, 2-nitrobenzaldehyde and 3-aminopyrazole in the same manner as in Example 94.

reactant | methyl cyclopropanecarboxylate | C1(CC1)C(=O)OC | C5H8O2
reactant | 2-nitrobenzaldehyde | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
product | 5-Cyano-6-cyclopropyl-4,7-dihydro-4-(2-nitrophenyl)-2H-pyrazolo[3,4-b]pyridine | C(#N)C=1C(C=2C(NC1C1CC1)=NNC2)C2=C(C=CC=C2)[N+](=O)[O-] | C16H13N5O2
